US06890947B2
In analogy to the procedure described in example 44, rac-2-ethoxy-3-(2-methyl-1H-indol-5-yl)-propionic acid ethyl ester (preparation 5) was reacted with 2-(4-tert-butyl-phenyl)-4-chloromethyl-oxazole to give rac-3-{1-[2-(4-tert-butyl-phenyl)-oxazol-4-ylmethyl]-2-methyl-1H-indol-5-yl}-2-ethoxy-propionic acid as light brown solid.

reactant | rac-2-ethoxy-3-(2-methyl-1H-indol-5-yl)-propionic acid ethyl ester | C(C)OC(C(CC=1C=C2C=C(NC2=CC1)C)OCC)=O | C16H21NO3
reactant | 2-(4-tert-butyl-phenyl)-4-chloromethyl-oxazole | C(C)(C)(C)C1=CC=C(C=C1)C=1OC=C(N1)CCl | C14H16ClNO
product | rac-3-{1-[2-(4-tert-butyl-phenyl)-oxazol-4-ylmethyl]-2-methyl-1H-indol-5-yl}-2-ethoxy-propionic acid | C(C)(C)(C)C1=CC=C(C=C1)C=1OC=C(N1)CN1C(=CC2=CC(=CC=C12)CC(C(=O)O)OCC)C | C28H32N2O4
